US05472958
15a, 2(S)-(3-Chlorophenoxymethyl)-1-methylpyrrolidine
A 2 g (17.4 mmol) sample of (S)-1-methyl-2-pyrrolidinemethanol (from Aldrich) and 2.8 g (22 mmol) of 3-chlorophenol (Aldrich) were added to a complex of TPP and TBAD, (prepared as in Example 5b above, 22 mmol of each) in 150 mL of THF. The reaction was stirred for 4 hr. The solvents were removed, the residue was stirred with 15% HCl, and the mixture was extracted with ether. The aqueous solution was then adjusted to pH 12 with K2CO3 and extracted with methylene chloride. The solvent was removed, and the residue was triturated with ether, the precipitate was removed by filtration, and the solvent was removed to give the crude product. The residue was purified by chromatography on silica gel.

reactant | (S)-1-methyl-2-pyrrolidinemethanol | CN1[C@@H](CCC1)CO | C6H13NO
reactant | 3-chlorophenol | 22 mmol, 2.8 g | ClC=1C=C(C=CC1)O | C6H5ClO
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2(S)-(3-Chlorophenoxymethyl)-1-methylpyrrolidine | ClC=1C=C(OC[C@H]2N(CCC2)C)C=CC1 | C12H16ClNO
